US04046898
A stirred mixture of 2-β-bromoethylamino-4-(2,6-dichlorophenyl)-1-pyrroline hydrobromide (46.35 g.), anhydrous sodium bicarbonate (9.3 g.) and dry isopropanol (350 ml.) is heated under reflux for 4 hours with exclusion of moisture, the hot mixture is filtered and the solid residue is stirred and heated under reflux with dry isopropanol (350 ml.) for 1 hour. The hot mixture is filtered and the combined isopropanol filtrates are evaporated to dryness under reduced pressure. The residue is dissolved in boiling ethanol (200 ml.) and the solution is concentrated to 125 ml. and allowed to cool. The mixture is filtered and there is thus obtained as solid residue 6-(2,6-dichlorophenyl)-2,3,6,7-tetrahydro-5H-pyrrolo[1,2-a]imidazole hydrobromide, m.p. 297°-299° C.

reactant | 2-β-bromoethylamino-4-(2,6-dichlorophenyl)-1-pyrroline hydrobromide | 46.35 g | Br.BrCCNC1=NCC(C1)C1=C(C=CC=C1Cl)Cl
reactant | sodium bicarbonate | 9.3 g | C([O-])(O)=O.[Na+]
solvent | isopropanol | 350 ml | C(C)(C)O | C3H8O
product | 6-(2,6-dichlorophenyl)-2,3,6,7-tetrahydro-5H-pyrrolo[1,2-a]imidazole hydrobromide | Br.ClC1=C(C(=CC=C1)Cl)C1CC=2N(CCN2)C1 | InChI=1S/C12H12Cl2N2.BrH/c13-9-2-1-3-10(14)12(9)8-6-11-15-4-5-16(11)7-8;/h1-3,8H,4-7H2;1H
